US06777417B2
Synthesis of 5-ethanesulfonyl-3-[1-(3-{3-[4-(2-hydroxyacetyl)-piperazin-1-yl]-propyl}-4,5,6,7-tetrahydro-1H-indol-2-yl)-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
3-{3-[4-(2-Hydroxy-acetyl)-piperazin-1-yl]-propyl}-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (134 mg, 0.3 mmol), prepared as described in Example 13, was condensed with 5-ethylsulfonyloxindole (102 mg, 72% pure) following the procedure used in Example 1. Dark solid was precipitated out and purified by flash chromatography, eluting with (dichloromethane/methanol 10/1) to give 46 mg of the desired product.

reactant | 3-{3-[4-(2-Hydroxy-acetyl)-piperazin-1-yl]-propyl}-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.3 mmol, 134 mg | OCC(=O)N1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C18H27N3O3
reactant | 5-ethylsulfonyloxindole | 102 mg | C(C)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C10H11NO3S
product | 5-ethanesulfonyl-3-[1-(3-{3-[4-(2-hydroxyacetyl)-piperazin-1-yl]-propyl}-4,5,6,7-tetrahydro-1H-indol-2-yl)-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 46 mg | C(C)S(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CCN(CC1)C(CO)=O | C28H36N4O5S
